US05599832
Preparation of 6-Chloro-1-(ethoxymethyl)-2-(trifluoromethyl)indole-3-carbonitrile
A mixture of 6-chloro-3-cyano-1-methyl-2-(trifluoromethyl)indole (1.08 g, 4.2 mmole) and thionyl chloride (0.68 mL, 8.4 mmole) in carbon tetrachloride is heated at reflux temperature for 18 hours, cooled to room temperature and concentrated in vacuo for 18 hours to remove all volatiles. The residue is dissolved in ethanol and treated with a solution of sodium metal (0.38 g, 16 mmole) in ethanol, stirred or 0.5 hour at room temperature and diluted with diethyl ether. The diluted reaction mixture is washed with water, dried over Na2SO4 and concentrated in vacuo to give a residue. The residue is chromatographed (silica gel/4:1 hexanes: ethyl acetate) to afford the title product as an off-white solid, 0.66 g (52% yield) mp 83°-86° C., identified by IR, 1HNMR, 13CNMR, 19FNMR and mass spectral analyses.

reactant | 6-chloro-3-cyano-1-methyl-2-(trifluoromethyl)indole | 4.2 mmole, 1.08 g | ClC1=CC=C2C(=C(N(C2=C1)C)C(F)(F)F)C#N | C11H6ClF3N2
reactant | thionyl chloride | 8.4 mmole, 0.68 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium | 16 mmole, 0.38 g | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Chloro-1-(ethoxymethyl)-2-(trifluoromethyl)indole-3-carbonitrile | 52% yield | ClC1=CC=C2C(=C(N(C2=C1)COCC)C(F)(F)F)C#N | C13H10ClF3N2O
